US08247396B2
7-Methyloxy-8-hydroxyquinoline (1.10 g; 6.29 mmol) and K2CO3 (1.30 g; 9.43 mmol) in 30 ml of dry acetonitrile are stirred for 10 minutes under argon. Benzyl chloride (0.87 ml, 7.54 mmol) is then added and the reaction medium is heated under reflux overnight. After returning to ambient temperature, the precipitate is filtered, washed with CH2Cl2 and the filtrate is concentrated under reduced pressure. The oil obtained is dissolved again in CH2Cl2 (50 ml) and washed in succession with an aqueous solution of NaOH 2 N (4×50 ml) and water (1×50 ml). The organic phase is dried over anhydrous Na2SO4 and the solvent is evaporated under reduced pressure to yield 7-methyloxy-8-[(phenylmethyl)oxy]quinoline in the form of a brown oil (1.28 g; 4.84 mmol, yield=77%). NMR-1H (250 MHz, CDCl3) δ, ppm: 8.94 (dd, 3J (H, H)=4.0 Hz, 4J (H, H)=1.5 Hz, 1H); 8.06 (dd, 3J (H, H)=8.5 Hz, 4J (H, H)=1.5 Hz, 1H); 7.59-7.51 (m, 3 H); 7.36-7.24 (m, 5H); 5.40 (s, 2H); 3.92 (s, 3H). NMR-13C (63 MHz, CDCl3) δ, ppm: 151.3 (CH); 149.5 (Cq); 142.9 (Cq); 141.2 (Cq); 137.4 (Cq); 135.3 (CH); 127.9 (CH); 127.4 (CH); 127.1 (CH); 123.6 (Cq); 122.9 (CH); 118.5 (CH) 114.8 (CH); 75.2 (CH2); 56.1 (CH3). MS (CID, NH3): m/z=266 (MH+). Analysis (%) for C17H15NO2.0.05 CHCl3: calculated C, 75.49. H, 5.59. N, 5.16. found C, 75.74. H, 5.40. N, 5.33.

reactant | 7-Methyloxy-8-hydroxyquinoline | 6.29 mmol, 1.10 g | COC1=CC=C2C=CC=NC2=C1O | C10H9NO2
reactant | K2CO3 | 9.43 mmol, 1.30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Benzyl chloride | 7.54 mmol, 0.87 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 7-methyloxy-8-[(phenylmethyl)oxy]quinoline | yield=77% | COC1=CC=C2C=CC=NC2=C1OCC1=CC=CC=C1 | C17H15NO2
